* source ADC
E_U1         N01917 0 VALUE {LIMIT(V(0,N01900)*1E6,-5V,+5V)}
C_C1         N01900 N01917  12.8n IC=0 TC=0,0 
R_R1         N01900 N29993  20k TC=0,0 
E_U2         N29633 0 VALUE {LIMIT(V(VREF,N01917)*1E6,0V,+5V)}
V_Vref         VREF 0 0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND N29309 IO_STM STIMULUS=RST
V_V2         N03226 0 5
X_CNTA         CLK N16069 P Q0 Q1 Q2 Q3 $G_CD4000_VDD $G_CD4000_VSS CD4520B
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNTB         0 N16069 Q3 Q4 Q5 Q6 Q7 $G_CD4000_VDD $G_CD4000_VSS CD4520B
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V3         N19953 0 -5
X_U13         M_UN0001 N01900 N204737 M_UN0002 M_UN0003 M_UN0004 M_UN0005
+  M_UN0006 M_UN0007 M_UN0008 N01917 M_UN0009 M_UN0010 M_UN0011 $G_DPWR $G_DGND
+  74HC157 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R3         0 N204737  10e6 TC=0,0 
V_V4         VCC 0 5
X_U17D         MEAS NS1 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         S2 NS2 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R2         N02458 0  10e6 TC=0,0 
X_U16A         NS1 S2 N07969 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         N08158 N08053 N0 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U22A         N17188 T N1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R4         0 N02424  10e6 TC=0,0 
X_U17A         T N08158 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18B         T S0 N16066 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21C         P NP $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U20B         NP NS2 N16213 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         S0 NS1 N07888 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18A         N16066 N16204 N2 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14C         S0 NS0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19A         NS1 N16213 N16204 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         MEAS N05072 I0 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9E         MEAS RST_IN $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12F         S0 N05072 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         S0 MEAS N04762 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         S0 MEAS I1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         S0 N04842 RST_CNT $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9B         MEAS N04842 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         N04762 WR $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND T IO_STM STIMULUS=TRIGGER
X_U23         N29309 RST_CNT N16069 $G_DPWR $G_DGND OR2
X_M1         N01900 RST_IN N01917 2N7269
X_M4         N19953 I1 N29993 2N7269
X_M2         N29633 MEAS P 2N7269
X_M3         N03226 I0 N29993 2N7269
